US04264774
In the reaction, excess hydrazine in the presence of a solvent, advantageously a lower alkanol, is reacted with the 2-thiophenesulfonyl chloride to form a 2-thiophenesulfonyl hydrazine. In the reaction, the 2-thiophenesulfonyl chloride is gradually added to the hydrazine solution which is maintained at a low temperature, advantageously between about 5° and up to about 15° C. The reaction mixture is then allowed to warm to room temperature, the solvent is removed in vacuo and a mixture of a heavy oil and a fluffy solid results. This mixture is treated with water and the solid is dissolved and the oil separated therefrom. This mixture of oil and water, which contains the hydrazine hydrochloride from the first reaction, is then placed in a flask containing a bromine solvent, advantageously chloroform, crushed ice is added thereto and to the resulting slurry bromine is added at such a rate that the reaction temperature remains below about 10° C. After the bromine has been added and the bromine color has dissipated, the layers are separated, the chloroform layer is dried over an appropriate desiccant, advantageously anhydrous magnesium sulfate, and the chloroform removed in vacuo to leave a yellow oil which crystallizes on addition of hexane to give the 2-thiophenesulfonyl bromide.

reactant | hydrazine | NN | H4N2
reactant | 2-thiophenesulfonyl chloride | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | 2-thiophenesulfonyl hydrazine | S1C(=CC=C1)S(=O)(=O)NN | C4H6N2O2S2
